US06693154B2
Preparation of an Iron(II) 1,3-Bis(2-mesitylimino)isoindoline Complex
A 100-mL round-bottom flask equipped with a nitrogen inlet and an internal fritted-glass filter is charged with phthalonitrile (2.56 g, 20.0 mmol) and ethanol (50 mL). 2,4,6-Trimethylaniline (5.68 g, 42.0 mmol, 2.1 eq.) and iron(II) chloride (2.54 g, 20.0 mmol) are added to the flask, and the mixture is stirred at room temperature under nitrogen for 1 h.

reactant | phthalonitrile | 20.0 mmol, 2.56 g | C(C=1C(C#N)=CC=CC1)#N | C8H4N2
reactant | 2,4,6-Trimethylaniline | 42.0 mmol, 5.68 g, 2.1 eq. | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | iron(II) chloride | 20.0 mmol, 2.54 g | [Fe](Cl)Cl
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | Iron(II) 1,3-Bis(2-mesitylimino)isoindoline | C1(=C(C(=CC(=C1)C)C)N=C1NC(C2=CC=CC=C12)=NC1=C(C=C(C=C1C)C)C)C.[Fe+2] | InChI=1S/C26H27N3.Fe/c1-15-11-17(3)23(18(4)12-15)27-25-21-9-7-8-10-22(21)26(29-25)28-24-19(5)13-16(2)14-20(24)6;/h7-14H,1-6H3,(H,27,28,29);/q;+2
